US04670488
To a four-necked flask equipped with a thermometer, a stirrer and a Deanstark trap were added 27 g (0.1 mole) of N-(1-acetyl-2,2,6,6-tetramethyl-4-piperidinyl)glycine methyl ester, 21.9 g (0.11 mole) of 1-acetyl-2,2,6,6-tetramethyl-4-piperidinol, 0.23 g of lithium amide and 100 g of heptane. The temperature was raised with stirring, and reaction was carried out at 98° to 105° C. for 6 hours, during which methanol was removed from the reaction system by means of the Deanstark trap. After completion of the reaction, the reaction solution was cooled, and water was added thereto to dissolve the product in the heptane layer. The heptane layer was separated and concentrated by removing heptane by distillation. The residue was purified by column chromatographic separation to obtain 32 g of N-(1-acetyl-2,2,6,6-tetramethyl-4-piperidinyl)glycine(1-acetyl-2,2,6,6-tetramethyl-4-piperidinyl)ester as a pale yellow liquid. Yield, 73% based on N-(1-acetyl-2,2,6,6-tetramethyl-4-piperidinyl)-glycine methyl ester.

reactant | N-(1-acetyl-2,2,6,6-tetramethyl-4-piperidinyl)glycine methyl ester | 0.1 mole, 27 g | COC(CNC1CC(N(C(C1)(C)C)C(C)=O)(C)C)=O | C14H26N2O3
reactant | 1-acetyl-2,2,6,6-tetramethyl-4-piperidinol | 0.11 mole, 21.9 g | C(C)(=O)N1C(CC(CC1(C)C)O)(C)C | C11H21NO2
reactant | lithium amide | 0.23 g | [NH2-].[Li+]
reactant | methanol | CO | CH4O
solvent | heptane | CCCCCCC | C7H16
solvent | heptane | 100 g | CCCCCCC | C7H16
solvent | water | O | H2O
product | N-(1-acetyl-2,2,6,6-tetramethyl-4-piperidinyl)glycine(1-acetyl-2,2,6,6-tetramethyl-4-piperidinyl)ester | 32 g | C(C)(=O)N1C(CC(CC1(C)C)OC(CNC1CC(N(C(C1)(C)C)C(C)=O)(C)C)=O)(C)C | C24H43N3O4
